US08802704B2
Step 2: tert-butyl N-(tert-butoxycarbonyl)-N-(4-cyano-2-fluorobenzyl)glycinate
To a solution of tert-butyl N-(4-cyano-2-fluorobenzyl)glycinate (1.8 g, 6.8 mmol) and di-tert-butyl dicarbonate (1.6 g, 7.5 mmol) in DCM (36 mL) was added N-ethyldiisopropylamine (1.7 mL, 10.2 mmol). The resulting mixture was stirred at RT for 3.5 hours. The reaction mixture was diluted with DCM and washed with a saturated aqueous solution of NaHCO3 (2×) and brine. The organic layer was dried (MgSO4) and concentrated to give the title compound as a yellowish oil (2.1 g, 85%). 1H NMR (DMSO-d6, 300 MHz) δ 7.84 (m, 1H), 7.71 (m, 1H), 7.58 (m, 1H), 4.52-4.48 (m, 2H), 3.95-3.87 (m, 2H), 1.48-1.31 (m, 18H). LC/MS (Method B): 365.1 (M+H)+. HPLC (Method A) Rt 5.20 min (Purity: 97.1%).

reactant | tert-butyl N-(4-cyano-2-fluorobenzyl)glycinate | 6.8 mmol, 1.8 g | C(#N)C1=CC(=C(CNCC(=O)OC(C)(C)C)C=C1)F | C14H17FN2O2
reactant | di-tert-butyl dicarbonate | 7.5 mmol, 1.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-ethyldiisopropylamine | 10.2 mmol, 1.7 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DCM | 36 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl N-(tert-butoxycarbonyl)-N-(4-cyano-2-fluorobenzyl)glycinate | 2.1 g, 85% | C(C)(C)(C)OC(=O)N(CC(=O)OC(C)(C)C)CC1=C(C=C(C=C1)C#N)F | C19H25FN2O4
